US03963733
A solution of 5.0 g. of 3-bromopicolinoyl chloride (prepared by refluxing 3-bromopicolinic acid with thionyl chloride by the procedure of Example 2) in 25 ml. of dichloromethane is added to a solution of 3.9 g. of 2-amino-2-methylpropanol in 25 ml. of dichloromethane at 0°C. The resulting hydroxyalkylpicolinamide is cyclized by refluxing with thionyl chloride by the method of Leffler and Adams, J. Am. Chem. Soc. 59:2252 (1937) and the resulting hydrochloride salt is neutralized with aqueous sodium hydroxide solution to give 3-bromo-2-(4,4-dimethyl-2-oxazolinyl)pyridine.

reactant | 3-bromopicolinoyl chloride | BrC=1C(=NC=CC1)C(=O)Cl | C6H3BrClNO
reactant | 3-bromopicolinic acid | BrC=1C(=NC=CC1)C(=O)O | C6H4BrNO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-2-methylpropanol | NC(CO)(C)C | C4H11NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-bromo-2-(4,4-dimethyl-2-oxazolinyl)pyridine | BrC=1C(=NC=CC1)C=1OCC(N1)(C)C | C10H11BrN2O
